US08314098B2
Synthesis of N-benzylidene-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 7)
5-Chloro-7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidine (51.4 mg, 0.163 mM) was suspended in ethanol (1 mL) and then hydrazine monohydrate (15.8 μL, 0.326 mM) was added to the resulting suspension. This suspension was stirred for 2 hours and a half, while refluxing with heating, then hydrazine monohydrate (15.8 μL, 0.326 mM) was further added to the suspension, the mixture was stirred for additional 3 hours, hydrazine monohydrate (15.8 μL, 0.326 mM) was further added to the mixture and then the mixture was stirred for 18 hours. This reaction liquid was diluted with a saturated aqueous common salt solution and extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate and the solvent was then distilled off. The resulting residue was suspended in ethanol (0.5 mL), then acetic acid (2.0 μL, 0.035 mM) and benzaldehyde (16.6 μL, 0.196 mM) were added to the suspension and the mixture was stirred at room temperature for 15 minutes. This reaction mixture was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to thus give the title compound (16.5 mg, overall yield of these two steps: 25%).

reactant | 5-Chloro-7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidine | 0.163 mM, 51.4 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=CC=C2 | C16H15ClN4O
reactant | hydrazine monohydrate | 0.326 mM, 15.8 μL | O.NN
reactant | hydrazine monohydrate | 0.326 mM, 15.8 μL | O.NN
reactant | hydrazine monohydrate | 0.326 mM, 15.8 μL | O.NN
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-benzylidene-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo-[1,5-a]pyrimidin-5-yl)-hydrazine | C(C1=CC=CC=C1)=NNC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=CC=C2 | C23H22N6O
